US08957089B2
7-(Benzyloxy)-1-[1-(4-chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinoline was prepared analogously to example 65 using N-{2-[4-(benzyloxy)phenyl]ethyl}-1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxamide (1.1 g, 2.445 mmol) and phosphoric trichloride (3.75 g, 24.45 mmol). Yield: 65 mg (0.15 mmol, 6%).

reactant | N-{2-[4-(benzyloxy)phenyl]ethyl}-1-(4-chloro-2-methoxyphenyl)cyclobutanecarboxamide | 2.445 mmol, 1.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC(=O)C1(CCC1)C1=C(C=C(C=C1)Cl)OC | C27H28ClNO3
reactant | phosphoric trichloride | 24.45 mmol, 3.75 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(Benzyloxy)-1-[1-(4-chloro-2-methoxyphenyl)cyclobutyl]-3,4-dihydroisoquinoline | C(C1=CC=CC=C1)OC1=CC=C2CCN=C(C2=C1)C1(CCC1)C1=C(C=C(C=C1)Cl)OC | C27H26ClNO2
